US06525042B1
Methyl 4-cyanomethylbenzoate
In dichloromethane (20 ml), methyl 4-hydroxymethylbenzoate (1.00 g) was dissolved, followed by the addition of triethylamine (0.9 ml). Under ice cooling, a solution of methanesulfonyl chloride (0.70 g) in dichloromethane (dichloromethane: 5 ml) was added to the resulting solution. The resulting mixture was stirred at room temperature for 15 hours. After dilution with dichloromethane, the reaction mixture was washed with water and was then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was dissolved in acetonitrile (12 ml). To the resulting solution, potassium cyanide (0.80 g) and 18-Crown-6 (0.16 g) were added, followed by stirring at room temperature for 40 hours. After concentration under reduced pressure, the concentrate was diluted with dichloromethane, washed with water and then, dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane), whereby colorless crystals (0.91 g, 86%) was obtained. A portion of the resulting crystals was recrystallized from a mixed solvent of hexane and ethyl acetate, whereby colorless crystals were obtained.

reactant | methyl 4-hydroxymethylbenzoate | 1.00 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.70 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Methyl 4-cyanomethylbenzoate | 0.91 g, 86% | C(#N)CC1=CC=C(C(=O)OC)C=C1 | C10H9NO2
